US06756378B2
To a stirred solution of trans-1-tert-butoxycarbonyl-4dimethylamino-(2S)-hydroxymethyl pyrrolidine (180 mg, 0.73 mmol), methyl 4-hydroxybenzoate (114 mg, 0.75 mmol), and Ph3P (296 mg, 1.13 mmol) in THF (10 ml) was added DIAD (227 mg, 1.13 mmol) at 0° C. The reaction mixture was stirred at 70° C. for 18 hr. The mixture was concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane-EtOAc (1:2, v/v) to MeOH—CH2Cl2(5:95, v/v) as eluent to give methyl 4-[trans-1-tert-butoxycarbonyl-4-dimethylamino(2S) -pyrrolidinyl]methoxybenzoate (180 mg, 68%) as a pale yellow oil. 1H-NMR (CDCl3) δ1.46 (s, 9H), 1.80-1.95 (m, 1H), 2.20-2.23 (m, 1H), 2.24 (s, 6H), 2.90-2.95 (m, 1H), 3.10-3.30 (m, 1H), 3.50-3.65 (m, 1H), 3.88 (s, 3H), 3.95-4.35 (m, 3H), 6.93-6.95 (m, 2H), 7.96-7.98 (m, 2H).

reactant | trans-1-tert-butoxycarbonyl-4dimethylamino-(2S)-hydroxymethyl pyrrolidine | 0.73 mmol, 180 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)N(C)C)CO | C12H24N2O3
reactant | methyl 4-hydroxybenzoate | 0.75 mmol, 114 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | Ph3P | 1.13 mmol, 296 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.13 mmol, 227 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 4-[trans-1-tert-butoxycarbonyl-4-dimethylamino(2S) -pyrrolidinyl]methoxybenzoate | 180 mg, 68% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)N(C)C)COC1=CC=C(C(=O)OC)C=C1 | C20H30N2O5
